US08114868B2
A mixture of (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (200 mg, 0.35 mmol) and TBAF (182 mg, 0.7 mmol) in CH3CN was stirred and heated to reflux for 15 min. When the reaction was over, the mixture was washed with water and extracted with EtOAc. The combined organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give crude product, which was purified by preparative HPLC to give (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (5.01 mg, 4%). LC-MS Method 2 tR=1.065 min, m/z=464.21; 1H NMR (CDCl3): δ=1.38 (m, 1H), 1.47 (d, 3H), 1.63 (m, 2H), 1.91 (m, 2H), 2.10-2.30 (m, 3H), 2.87 (m, 1H), 2.84 (m, 1H), 3.51 (m, 2H), 3.56 (s, 3H), 5.63 (m, 1H), 6.67 (m, 1H), 6.87-6.98 (m, 4H), 7.15 (m, 2H), 7.27 (m, 1H), 7.29 (m, 1H), 7.32 (m, 1H), 7.55 (m, 1H).

reactant | (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.35 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=C(C=C1)F | C33H43FN2O4Si
reactant | TBAF | 0.7 mmol, 182 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | CH3CN | CC#N | C2H3N
product | (R)-6-(4-fluorophenyl)-6-(3-hydroxypropyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 5.01 mg, 4% | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)CCCO | C27H29FN2O4
